US06743776B2
To a suspension of ethyl 4-bromobenzoate (1.37 g), (4-n-pentyloxyphenyl)acetylene (565 mg), triphenylphosphine (16 mg) and copper(I) iodide (6 mg) in triethylamine (10 ml) and pyridine (4 ml) was added palladium(II) chloride bis(triphenylphosphine) (21 mg) and the reaction mixture was stirred for 24 hours at 80° C. After cooling, the precipitate was filtered off, and the filtrate was evaporated under reduced pressure. The residue was taken up to dichloromethane, and the solution was washed successively with 1N HCl, water, brine and dried over magnesium sulfate. The solvents were removed under reduced pressure and the residue was triturated with acetonitrile, collected by filtration and dried under reduced pressure to give ethyl 4-(4-n-pentyloxyphenylethynyl)benzoate (355 mg).

reactant | ethyl 4-bromobenzoate | 1.37 g | BrC1=CC=C(C(=O)OCC)C=C1 | C9H9BrO2
reactant | (4-n-pentyloxyphenyl)acetylene | 565 mg | C(CCCC)OC1=CC=C(C=C1)C#C | C13H16O
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
catalyst | copper(I) iodide | 6 mg | [Cu]I
catalyst | palladium(II) chloride bis(triphenylphosphine) | 21 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd](Cl)Cl
catalyst | triphenylphosphine | 16 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | ethyl 4-(4-n-pentyloxyphenylethynyl)benzoate | 355 mg | C(CCCC)OC1=CC=C(C=C1)C#CC1=CC=C(C(=O)OCC)C=C1 | C22H24O3
